Name:  ___.                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
lower extremity edema, increased dyspnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI:  This is a ___ year-old woman with severe COPD, NSCLCA s/p 
XRT/chemotherapy with no evidence of recurrence, radiation 
pneumonitis, bronchiectasis, diastolic heart failure, home 
oxygen requirement who presents with worsening shortness of 
breath and increasing lower extremity edema. Known to me from 
prior admissions here at ___.  She has a ___ baseline oxygen 
dependency, is on maximal home pulmonary toilet including 
monthly alternating antibiotics with doxycycline x 30 days with 
Pulmozyme/ Tobramycin with aerosolized hypertonic saline x 30 
days.  She uses morphine elixir for dyspnea control.  In the 
past few days she has noted increasing lower extremity edema and 
increasing dyspnea.  She was prescribed lasix and has taken 
three doses of 20mg over past day without significan improvement 
in edema.  She has been in communication with Dr. ___ 
Dr. ___ for these issues.  Unfortunately she has not 
been able to get to her PCP's office for evaluation.  She is now 
directly admitted for management.

She tells me that her main concern is increasing lower 
extremeity edema over the past few days.  Additionally, she has 
noticed increased dyspnea over the past few days.  As of late, 
when feeling best, she is able to prepare meals and ambulate 
about her house on oxygen without dyspnea.  In the past few 
days, she has to sit while preparing meals and has had increased 
dyspnea with ambulation.  Says usually ___, now more often 
using ___.  Says sputum production has not increased, rather 
feeling as though producing less sputum, decreased secretions of 
late.  No fevers, chills. No cough.  No chest pain.  Says has 
been using usual pulm regimen.  Is on cycle of 
doxycycline/pulmizyme (mid cycle). 

No sick contacts, no arthralgias, myalgias.
===================================================
ROS: back pain controlled with oxycontin, morphine
Otherwise detailed review negative except as noted. 
 
Past Medical History:
___, stage IIIB dx ___ s/p ___ and radiation 

Radiation pneumonitis  
COPD--FEV1/FVC 38% pred on ___  
Bronchiectasis--pseudomonas, serratia
Depression  
Osteoporosis  
Chronic rhinitis  
GERD  
Hypertension  
Gout  
Hyperlipidemia 

 
Social History:
___
Family History:
Father died in ___ w/RCC, dementia.  
 
Physical Exam:
Physical Exam:
.
VS:  Tmax: 98.4   BP:130/80  HR:117 RR:20 95%3LO2sat
.
General Appearance: pleasant, comfortable, cushingnoid, 
intermittently stops talking to catch breath, non toxic, 
chronically ill appearing
Eyes:  PERLLA, EOMI, no conjuctival injection, anicteric
ENT: MMM, op without exudate or lesions, no supraclavicular or 
cervical 
Respiratory: diminished throughout, dry rales
Cardiovascular: tacycardic, S1 and S2 wnl, no murmurs, rubs or 
gallops appreciated
Gastrointestinal: nd, +b/s, soft, nt, no masses
Musculoskeletal/extremities: ___ bilateral lower extremity 
edema, excoriations over bilateral dorsum of feet
Skin/nails: warm, /no jaundice/
Neurological: AAOx3.  Cn II-XII intact.  ___ strength 
throughout. No asterixis, no pronator drift, fluent speech, very 
mild tremor
Psychiatric:pleasant, appropriate affect
Heme/Lymph: no cervical or supraclavicular lymphadenopathy
GU: no catheter in place

 
Pertinent Results:
Admit labs:

___ 05:40PM   WBC-16.9*# RBC-4.71# HGB-13.2 HCT-40.1# 
MCV-85# MCH-27.9# MCHC-32.8 RDW-14.5
___ 05:40PM   PLT COUNT-398#
___ 05:40PM   ___ PTT-24.5 ___
___ 05:40PM   GLUCOSE-115* UREA N-25* CREAT-0.6 SODIUM-135 
POTASSIUM-3.3 CHLORIDE-89* TOTAL CO2-34* ANION GAP-15
___ 05:40PM   CK-MB-3 cTropnT-<0.01 proBNP-557*
=================================================
CTA CHEST W&W/O C&RECONS, NON-CORONARY  ___ 10:28 AM

CTA CHEST W&W/O C&RECONS, NON-

Reason: Eval for PE/also history of hilar mass--?post 
obstructive pn
Field of view: 36

UNDERLYING MEDICAL CONDITION:
___ year old woman with copd, lung cancer, bronchiectasis 
admitted with dyspnea, lower extremity edema 
REASON FOR THIS EXAMINATION:
Eval for PE/also history of hilar mass--?post obstructive 
pneumonia 
CONTRAINDICATIONS for IV CONTRAST: None.

CLINICAL INDICATION: Dyspnea.

TECHNIQUE: 0.625-mm helically acquired images are obtained from 
the lung apices to the upper abdomen with intravenous contrast 
as a CT pulmonary angiogram protocol.

FINDINGS: There is no evidence of main, central, or segmental 
pulmonary embolism.

As on prior examination, there is enhancing soft tissue in the 
right hilus posterior to the right upper lobe bronchus with 
narrowing of the abutting airways. Overall, this is not 
significantly changed in appearance since the prior examination. 
Radiation changes are also noted within the right lung. Severe 
emphysema is noted. Within the right lower lobe, enlarging mass 
lesion identified measuring 23 x 14 mm, concerning for enlarging 
metastatic disease given the patient's clinical history. 
Increase in bibasilar airspace opacities, left greater than 
right. This may be related to aspiration. Clinical correlation 
is recommended. Small, calcified granuloma identified within the 
right upper lobe. Also, a 3-mm nodule is seen within the left 
upper lobe on image #44, series 4, not previously well seen.

A large hiatal hernia is noted. The visualized portions of the 
upper abdomen are grossly unremarkable.

Moderate-sized pericardial effusion is noted. This is not 
significantly changed in size since the prior study.

No suspicious lytic or blastic bony lesions are seen. There is 
evidence of prior kyphoplasty or possibly vertebroplasty 
involving the thoracic spine. This appears to have been 
performed in the interim between these studies. There is a 
suggestion of a small amount of cement within the spinal canal 
on the left, well seen on image #34, series 4.

IMPRESSION:

1. No evidence of pulmonary embolism.

2. Stable enhancing soft tissue in the region of the right 
hilus. Also, increase in size of right lower lobe lung mass. 
This is worrisome for enlarging metastatic disease given the 
patient's clinical history.

3. Bilateral airspace disease seen at the lung bases, left 
greater than right. This may be related to atelectasis. Other 
considerations would be an infectious etiology.

4. Status post kyphoplasty or vertebroplasty procedure.

5. Large hiatal hernia.

6. Severe emphysema.

7. New small nodules seen within the left upper lobe as noted 
above.
=================================================
Very poor image quality.
The left atrium and right atrium are normal in cavity size. Left 
ventricular wall thickness, cavity size, and global systolic 
function are normal (LVEF>55%). Due to suboptimal technical 
quality, a focal wall motion abnormality cannot be fully 
excluded. Right ventricular chamber size and free wall motion 
are normal. The aortic valve is not well seen. No aortic 
stenosis or aortic regurgitation is suggested by ___. The 
mitral valve leaflets are not well seen. No definite mitral 
regurgitation is seen. The pulmonary artery systolic pressure 
could not be estimated. There is an anterior space which most 
likely represents a fat pad. 

IMPRESSION: Suboptimal image quality. Normal biventricular 
cavity size and global systolic function.
Compared with the prior study (images reviewed) of ___, the 
findings are similar. [No significant pericardial effusion was 
seen on review of the prior study).  
=======================================
Bilateral ___: no DVT
=======================================

 
Brief Hospital Course:
Assessment and Plan: This is a ___ year-old woman with severe 
COPD, NSCLCA s/p XRT/chemotherapy with no evidence of 
recurrence, radiation pneumonitis, bronchiectasis, diastolic 
heart failure, home oxygen requirement who presents with 
worsening shortness of breath and increasing lower extremity 
edema.
.
1)Hypoxemia
2)Copd 
3)Acute on chronic diastolic heart failure 
4)Bronchiectasis
5)Lower extremity edema
6)Radiation pneumonitis
7)Tracheobronchitis
8)Non small lung cancer

Patient's primary complaints of increased dyspnea and lower 
extremity edema attributed to possible diastolic heart failure 
and concern for recurrence of malignancy vs. new fungal 
pneumonia.   Maintained on baseline oxygen, outpatient pulmonary 
regimen throughout.  Diuresed with IV lasix about 2 liters with 
improvement in lower extremity edema, then lasix 20mg daily 
added to standing outpatient regimen. Echo stable from 
previous-unable to determine pulmonary pressures due to poor 
study, preserved EF.  CT scan of chest demostrated no PE, 
concern for enlarged pulmonary mass vs. possible evolving fungal 
pneumonia.  Bilateral ___ negative for  DVT. Beta glucan and 
galactomannin sent.  Followed by Dr. ___ Dr. ___ 
___.  Patient will follow up with both along with Dr. 
___ ongoing management/decision regarding onc and 
potentially ID issues.  

.
8)Depression: continued fluoxetine
.
9)Osteoporosis/Compression fractures: continued vitamin D (pt. 
prefers no calcium)
boniva and calcitonin
.
10)GERD: protonix
.
11)Hyperlipidemia: continued statin

.

 
Medications on Admission:
1. Mucinex ___ BID
2. Oxycontin 10mg BID
3. Doxycycline 100mg BID
4. Decadron 2mg BID
5. Singulair 10mg tab daily
6. Spiriva
7. Advair 500/50 BID
8. Prilosec 20mg daily
9. Fluoxetine 40mg daily
10. Pravastatin 40mg daily
11. ambien 5mg qhs
12. Senna prn
13. Pulmozyme 2.5mg BID
14. Lasix prn
15. Boniva
16. Calcitonin
17. Xopenex
___. Ativan 0.5mg prn
19. Morphine concentrate 20mg/ml--0.5 to 2ml q1-4h:prn
20. percocet prn
21. Hypersal
 
Discharge Medications:
1. Omeprazole 40 mg Capsule, Delayed Release(E.C.) Sig: One (1) 
Capsule, Delayed Release(E.C.) PO once a day.  
2. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*30 Tablet(s)* Refills:*2*
3. Tiotropium Bromide 18 mcg Capsule, w/Inhalation Device Sig: 
One (1) Cap Inhalation DAILY (Daily).  
4. Advair Diskus 500-50 mcg/Dose Disk with Device Sig: One (1) 
inhalation Inhalation twice a day.  
5. Hyper-Sal 7 % Solution for Nebulization Sig: One (1) 
inhalation Inhalation as directed: as prevoiusly.  
6. Montelukast 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. Guaifenesin 600 mg Tablet Sustained Release Sig: Two (2) 
Tablet Sustained Release PO bid ().  
8. Xopenex HFA 45 mcg/Actuation HFA Aerosol Inhaler Sig: Two (2) 
puffs Inhalation every ___ hours as needed for shortness of 
breath.  
9. Levalbuterol HCl 0.63 mg/3 mL Solution for Nebulization Sig: 
1.25 mg inhalation Inhalation QID (4 times a day).  
10. Dornase Alfa 1 mg/mL Solution Sig: 2.5 mg Inhalation BID (2 
times a day).  
11. Dexamethasone 2 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).  
12. Doxycycline Hyclate 100 mg Capsule Sig: Two (2) Capsule PO 
Q12H (every 12 hours).  
13. Morphine Concentrate 20 mg/mL Solution Sig: 0.5-2 mg PO Q1H 
(every hour) as needed.  
14. Lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.  
15. Oxycodone 10 mg Tablet Sustained Release 12 hr Sig: One (1) 
Tablet Sustained Release 12 hr PO Q12H (every 12 hours).  
16. Oxycodone-Acetaminophen ___ mg Tablet Sig: One (1) Tablet 
PO Q6H (every 6 hours) as needed.  
17. Trimethoprim-Sulfamethoxazole 160-800 mg Tablet Sig: One (1) 
Tablet PO 3X/WEEK (___).  
18. Pravastatin 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
19. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
20. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Acute on Chronic diastolic heart failure
2. COPD
3. Radiation pneumonitis
4. Bronchiectasis
5. Non small cell lung cancer
Secondary:
1. Compression fracture
2. Osteoporosis
3. Depression
 
Discharge Condition:
Stable, respiratory status at baseline.
 
Discharge Instructions:
Follow up as below.

All medications as prescribed.  Take all meds as you were before 
coming into the hospital.  The only change is the addition of 
lasix.  Take 20mg daily.  If you are getting increased swelling 
you can double the dose for a day or two.

If you are developing worsening shortness of breath, fevers, 
increasing sputum production, chest pain or any other new 
concerning symptoms, contact your doctors.
 
Followup Instructions:
___